US06403601B1
(e) 3(3,4-Difluorophenyl)-N-methyl-4-amino-1-butanol
To a stirred cooled (−10° C.) mixture of lithium aluminum hydride (2.46 g, 65 mmol) and dry THF (50 mL) was added dropwise a solution of 3-(3,4-difluorophenyl)4-(ethoxycarbonylamino)-1-butanol (8.85 g, 32.4 mmol) in THF (40 mL). The solution was heated under reflux for 1.25 h, cooled (ice bath) and saturated sodium sulfate (150 mL) solution was added dropwise. The mixture was stirred at room temperature for 1 hr, filtered through diatomaceous earth, washed with THF and the solvent removed in vacuo. The residue was dissolved in DCM, washed with water, dried (Na2SO4), filtered and the solvent removed in vacuo. Purification by chromatography (2-5% and 10% methanol in DCM) provided the title compound (5.20 g, 75%) as a pale green oil. 1H-NMR (CDCl3) δ 1.85-1.96 (m, 2H, CH) 2.45 (s, 3H, CH3) 2.74-2.85 (m, 3H, CH) 3.37 (br s, 2H, NH, OH) 3.50-3.58 (m, 1H, CH) 3.66-3.73, m, 1H, CH), 6.87-7.35 (m, 3H, ArH). MS m/z 216 (M+H).

reactant | lithium aluminum hydride | 65 mmol, 2.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3,4-difluorophenyl)4-(ethoxycarbonylamino)-1-butanol | 32.4 mmol, 8.85 g | FC=1C=C(C=CC1F)C(CCO)CNC(=O)OCC | C13H17F2NO3
reactant | sodium sulfate | 150 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3(3,4-Difluorophenyl)-N-methyl-4-amino-1-butanol | 5.20 g, 75% | FC=1C=C(C=CC1F)C(CCO)CNC | C11H15F2NO
